US06420385B1
5-(4-Fluorophenyl)-3-methyl-2-(3-phenylpropoxy)-6-(4-pyridyl)-4(3H)-pyrimidinone:
Sodium hydride (60% oily suspension, 111 mg, 2.79 mmol) was added to a stirred solution of 3-phenylpropanol (387mg, 2.85 mmol) in tetrahydrofuran (1 ml). After gas evolution ceased, 5-(4-fluorophenyl)-3-methyl-2-methylsulfonyl-6-(4-pyridyl)-4(3H)-pyrimidinone (100 mg, 0.279 mmol) was added and the mixture was heated at 60° C. for 30 min. The reaction mixture was partitioned between dichloromethane and water. The organic solution was washed with brine, dried and evaporated. Column chromatography on silica gel (hexane-ethyl acetate=2:1) provided the title compound. MS (m/z): 416.1 (M+H)+; C25H22FN3O2 requir. 415.5.

reactant | Sodium hydride | 2.79 mmol, 111 mg | [H-].[Na+]
reactant | 3-phenylpropanol | 2.85 mmol, 387mg | C1(=CC=CC=C1)CCCO | C9H12O
reactant | 5-(4-fluorophenyl)-3-methyl-2-methylsulfonyl-6-(4-pyridyl)-4(3H)-pyrimidinone | 0.279 mmol, 100 mg | FC1=CC=C(C=C1)C=1C(N(C(=NC1C1=CC=NC=C1)S(=O)(=O)C)C)=O | C17H14FN3O3S
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 5-(4-Fluorophenyl)-3-methyl-2-(3-phenylpropoxy)-6-(4-pyridyl)-4(3H)-pyrimidinone | FC1=CC=C(C=C1)C=1C(N(C(=NC1C1=CC=NC=C1)OCCCC1=CC=CC=C1)C)=O | C25H22FN3O2
